US04046907
1Nitro-2-ethylamino-2-[2-(3-isoxazolylmethylthio)ethylamino]ethylene
Reaction of 1-nitro-2-methylthio-2-[2-(3-isoxazolylmethylthio)-ethylamino]ethylene (see Example 31 (ii) with ethylamine by the procedure of Example 8(ii) gives the title product.

reactant | 1-nitro-2-methylthio-2-[2-(3-isoxazolylmethylthio)-ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=NOC=C1)SC | C9H13N3O3S2
reactant | ethylamine | C(C)N | C2H7N
product | 1Nitro-2-ethylamino-2-[2-(3-isoxazolylmethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=NOC=C1)NCC | C10H16N4O3S
